US07560558B2
Compound 222: 4-(5-Chloro-2-cyclopentyloxy-pyridin-3-yloxy)-6,7-dimethoxy-quinoline
4-(5-Chloro-2-hydroxy-pyridin-3-yloxy)-6,7-dimethoxyquinoline (39 mg) was suspended in N,N-dimethylformamide (7 ml). Cyclopentyl bromide (0.3 ml) and potassium carbonate (300 mg) were added to the suspension, and the mixture was stirred at room temperature for 2 hr. Water was added to the reaction solution, and the mixture was extracted with ethyl acetate. The organic layer was washed with an aqueous sodium hydrogencarbonate solution and water and was dried over anhydrous sodium sulfate. The solvent was removed by distillation under the reduced pressure, and the residue was purified by column chromatography using acetone-chloroform to give the title compound (29 mg, yield 62%).

reactant | 4-(5-Chloro-2-hydroxy-pyridin-3-yloxy)-6,7-dimethoxyquinoline | 39 mg | ClC=1C=C(C(=NC1)O)OC1=CC=NC2=CC(=C(C=C12)OC)OC | C16H13ClN2O4
reactant | Cyclopentyl bromide | 0.3 ml | C1(CCCC1)Br | C5H9Br
reactant | potassium carbonate | 300 mg | C([O-])([O-])=O.[K+].[K+]
reactant | Water | O | H2O
solvent | N,N-dimethylformamide | 7 ml | CN(C=O)C | C3H7NO
product | 4-(5-Chloro-2-cyclopentyloxy-pyridin-3-yloxy)-6,7-dimethoxy-quinoline | 29 mg, yield 62% | ClC=1C=C(C(=NC1)OC1CCCC1)OC1=CC=NC2=CC(=C(C=C12)OC)OC | C21H21ClN2O4
